US06093716
N-(2-Ethylbenzoxazol-5-yl)-4-(2-(4-ethylpiperazin-1-yl)pyrid-5-yl)-2-pyrimidineamine
A suspension of 4-(2-(4-benzyloxycarbonylpiperazin-1-yl)pyrid-5-yl)-N-(2-ethylbenzoxazol-5-yl)-2-pyrimidineamine (100 mg, 0.19 mmol) and 10% palladium on charcoal (30 mg) in ethanol (25 ml) was stirred under an atmosphere of hydrogen at 50° for 2 h, then filtered through Celite® and evaporated. The residue was subjected to column chromatography (silica, 0.88 ammonia solution-methanol-dichloromethane, 1:5:94) to afford the title compound (25 mg) as a white solid m.p. 174-176°. δH (CDCl3) 1.15 (3H, t, J 7.2 Hz), 1.45 (3H, t, J 7.6 Hz), 2.49 (2H, q, J 7.2 Hz), 2.58 (4H, m), 2.96 (2H, q, J 7.6 Hz), 3.71 (4H, m), 6.71 (1H, d, J 9.0 Hz), 7.04 (1H, d, J 5.3 Hz), 7.40 (1H, br s), 7.41 (1H, d, J 8.7 Hz), 7.49 (1H, dd, J 2.1, 8.7 Hz), 8.09 (1H, d, J 2.1 Hz), 8.20 (1H, dd, J 2.4, 9.0 Hz), 8.36 (1H, d, J 5.3 Hz) and 8.87 (1H, d, J 2.1 Hz).

reactant | 4-(2-(4-benzyloxycarbonylpiperazin-1-yl)pyrid-5-yl)-N-(2-ethylbenzoxazol-5-yl)-2-pyrimidineamine | 0.19 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C1=NC(=NC=C1)NC=1C=CC2=C(N=C(O2)CC)C1 | C30H29N7O3
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
product | N-(2-Ethylbenzoxazol-5-yl)-4-(2-(4-ethylpiperazin-1-yl)pyrid-5-yl)-2-pyrimidineamine | 25 mg | C(C)C=1OC2=C(N1)C=C(C=C2)NC2=NC=CC(=N2)C=2C=CC(=NC2)N2CCN(CC2)CC | C24H27N7O
